US04775675
5,5-Dimethyl-2-(5-indanyl)-thiazolidine-4(S)-carboxylic acid
1.44 g (10 mmoles) of 5-formylindane are portionwise added to a solution containing 1.5 g of D-penicillamine in 100 ml of methanol at room temperature while stirring. After 48 hours, the mixture is evaporated to dryness. The residue is dissolved in ether with boiling, treated with activated carbon and filtered. The crude product is precipitated by adding petroleum ether. The thus-obtained product is dissolved in hot ethanol, clarified with carbon, filtered, then water is added up to a beginning opalescence. On cooling, the title compound precipitates in a crystalline form in a yield of 1.57 g (57.1%), m.p. 140°-142° C., [α]D20 =+18° (c=0.551, dimethylsulphoxide).

reactant | 5-formylindane | 10 mmoles, 1.44 g | C(=O)C=1C=C2CCCC2=CC1 | C10H10O
reactant | D-penicillamine | 1.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | methanol | 100 ml | CO | CH4O
product | 5,5-Dimethyl-2-(5-indanyl)-thiazolidine-4(S)-carboxylic acid | CC1([C@@H](NC(S1)C=1C=C2CCCC2=CC1)C(=O)O)C | C15H19NO2S
